US07781431B2
Step 1: methyl 2-cyano-4-oxo-4-phenylbutanoate
A solution (1 M) of phenacyl bromide in THF was added dropwise to a solution (5.5 M) of methyl cyanoacetate (1.1 eq.) and DIEA (2.4 eq.) in THF at RT. The resulting solution was stirred at RT for 20 h then the mixture was filtered and the filtrate was concentrated in vacuo to obtain an oil that was treated with little portions of aqueous HCl (1 N). The organic phase was washed with brine, dried and concentrated affording the title compound (97%) as an oil that solidified when stored in the fridge.

reactant | phenacyl bromide | 1 M | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | methyl cyanoacetate | 5.5 M, 1.1 eq. | C(#N)CC(=O)OC | C4H5NO2
reactant | DIEA | 2.4 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | methyl 2-cyano-4-oxo-4-phenylbutanoate | 97% | C(#N)C(C(=O)OC)CC(C1=CC=CC=C1)=O | C12H11NO3
